US05183825
5-Bromomethylbenzo[b]thiophene was prepared from 5-methylbenzo[b]thiophene and N-bromosuccinimide as in Example 6 except that the reaction was refluxed 15 hours.

reactant | 5-methylbenzo[b]thiophene | CC1=CC2=C(SC=C2)C=C1 | C9H8S
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
product | 5-Bromomethylbenzo[b]thiophene | BrCC1=CC2=C(SC=C2)C=C1 | C9H7BrS
